US05633279
The 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy -5-isobenzofuranylmethyl)-1-methylcyclopent-2-en-1-ylacetic acid obtained in Example ZC-1G was dissolved in a mixture of methanol (8 mL) and water (2 mL) and treated with lithium hydroxide monohydrate (0.15 g). After 4 hours, the reaction was diluted with ethyl acetate and made acidic with 5% hydrochloric acid. After two extractions with ethyl acetate, the product was washed out of the combined organic layers with 2M NaOH. Acidification of the basic layers with 5% hydrochloric acid and extraction of the product into ethyl acetate was followed by drying the organic layer with magnesium sulfate. Filtration and solvent removal was followed by two flash chromatographies (hexanes/ethyl acetate, 4/1 with 1% HOAc; then methylene chloride/methanol 25/1) to provide 3-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-ylacetic acid (0.010 g) m.p. 153°-159° C.

reactant | 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy -5-isobenzofuranylmethyl)-1-methylcyclopent-2-en-1-ylacetic acid | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC(CC1)(C)CC(=O)O | C26H28O8S
reactant | lithium hydroxide monohydrate | 0.15 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 8 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-ylacetic acid | 0.010 g | OC1=C2C(OCC2=C(C(=C1CC1=C(C(CC1)CC(=O)O)C)OC)C)=O | C19H22O6
